US06875759B1
Preparation of 1-[(N,N′-Di-p-tolyl)amidino]piperizine
1.2 mmol of piperazine was dissolved in 10 ml of DMF and 1.0 mmol of 1,3-di-p-tolylcarbodiimide was added. After 0.5 hour of stirring at room temperature, a small precipitation was filtered off, and washed twice with 1 ml of DMF. The filtrates were collected and kept at room temperature overnight. 50 ml of water was added to the solution. A precipitated oil was separated by centrifugation. The residual oil was dissolved in 10 ml of methanol and 0.2 ml of conc. HCl was added. The methanol solution was concentrated to 2 ml and purified by gel filtration on Sephadex LH-20 in methanol. Yield=52%.

reactant | piperazine | 1.2 mmol | N1CCNCC1 | C4H10N2
reactant | 1,3-di-p-tolylcarbodiimide | 1.0 mmol | C1(=CC=C(C=C1)N=C=NC1=CC=C(C=C1)C)C | C15H14N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[(N,N′-Di-p-tolyl)amidino]piperizine | Yield=52% | C1(=CC=C(C=C1)NC(=NC1=CC=C(C=C1)C)N1CCNCC1)C | C19H24N4
